US05380921
(iii) N-[N-(1-diethoxyphosphoryl-3-phenylpropyl)leucyl]-3-(α-naphthyl)-L-alanine tert-butyl ester
A solution of 61 mg of N-(1-diethoxyphosphoryl-3-phenylpropyl) -leucine and 39 mg of 3-(α-naphthyl) -L-alanine tert-butyl ester in 1.0 ml of dichloromethane was cooled to 0° C. Then 26 mg of 1-hydroxybenzotriazole monohydrate and 34 mg of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride was added to the solution which was stirred at 0° C. for 1 hour and then at room temperature for 3 hours. The reaction mixture was diluted with 15 ml of dichloromethane, and the diluted solution was washed with 15 ml of a saturated aqueous solution of sodium bicarbonate and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was separated and purified by silica gel chromatography (hexane: ethyl acetate=1:1) to yield the title compound as two mixtures each of which are composed of two stereoisomers (42 mg of a/b mixture, 35 mg of c/d/mixture). (iv) N-[N-(3-phenylphosphonopropyl)leucyl]-3-(α-naphthyl)-L-alanine

reactant | N-(1-diethoxyphosphoryl-3-phenylpropyl) -leucine | 61 mg | C(C)OP(=O)(OCC)C(CCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C19H32NO5P
reactant | 3-(α-naphthyl) -L-alanine tert-butyl ester | 39 mg | C(C)(C)(C)OC([C@@H](N)CC1=CC=CC2=CC=CC=C12)=O | C17H21NO2
reactant | 1-hydroxybenzotriazole monohydrate | 26 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 34 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[N-(1-diethoxyphosphoryl-3-phenylpropyl)leucyl]-3-(α-naphthyl)-L-alanine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(CCC1=CC=CC=C1)P(=O)(OCC)OCC)CC(C)C)=O)CC1=CC=CC2=CC=CC=C12)=O | C36H51N2O6P
